US06706925B2
4,4,5,5-Tetramethyl-2-[(E)-1-octenyl]-1,3,2-dioxaborolane
1-Octyne (2.95 ml, 20 mmol) was added slowly (˜20 min) to a suspension of freshly prepared di(1-isopropyl-3-methylbut-2-enyl)borane, with the reaction temperature being below 5° C. The mixture formed was stirred at 0° C. for 1 hour, slowly quenched with H2O (3 ml) (with some gas evolution occurring) and stirred at RT for 0.5 hour, after which a solution of formaldehyde (1.50 ml, 20 mmol, 37% strength by weight solution in water) was added all at once (exothermic reaction, cooling bath necessary). The reaction mixture was stirred at RT for 1 hour and then admixed with pinacol (2.60 g, 22 mmol). After stirring at RT for 24 hours, the mixture was diluted with H2O (40 ml) and extracted with heptane (40 ml), after which the organic extract was washed with H2O (5×25 ml), dried (Na2SO4) and evaporated under reduced pressure. The residue obtained was carefully distilled under reduced pressure (bulb tube), giving 3.19 g of the product (13.39 mmol, 67% yield) in the form of a colorless liquid, b.p. 70-80° C. (0.15 mm of Hg); IR (film) 2928, 1639, 1363, 1319, 1146 cm−1; 1H-NMR (300 MHz, acetone-d6) 6.55 (dt, 1H, J=18.0, 6.6 Hz), 5.35 (dt, 1H, J=18.0, 1.5 Hz), 2.17-2.09 (m, 2H), 1.50-1.20 (m, 8H), 1.21 (s, 12H), 0.90-0.85 (m, 3H); 13C-NMR (75.4 MHz, acetone-d6) 155.0, 83.6, 36.5, 32.5, 29.7, 29.2, 25.2, 23.3, 14.4;

reactant | 1-Octyne | 20 mmol, 2.95 ml | C#CCCCCCC | C8H14
reactant | di(1-isopropyl-3-methylbut-2-enyl)borane | C(C)(C)C(C=C(C)C)BC(C=C(C)C)C(C)C | C16H31B
reactant | formaldehyde | 20 mmol, 1.50 ml | C=O | CH2O
reactant | pinacol | 22 mmol, 2.60 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | H2O | 40 ml | O | H2O
product | 4,4,5,5-Tetramethyl-2-[(E)-1-octenyl]-1,3,2-dioxaborolane | 13.39 mmol, 3.19 g, 67% yield | CC1(OB(OC1(C)C)\C=C\CCCCCC)C | C14H27BO2
